US08222219B2
To a solution of the above methyl 5-bromo-2-iodobenzoate (4.65 g) in N-methyl-2-pyrrolydinone (20 ml) were added copper (I) bromide (235 mg) and methyl 2,2-difluoro-2-(fluorosulfonyl)acetate (2.6 ml), and the mixture was stirred under heating at 120° C. for 1.5 hours. The reaction mixture was cooled, and added thereto were 10% aqueous hydrochloric acid solution and ethyl acetate. Insoluble materials were filtered off, and an organic layer of the filtrate was washed with water for 4 times, and subsequently washed with a saturated aqueous sodium hydrogen carbonate solution and brine. The filtrate was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexan:ethyl acetate=80:1) to give methyl 5-bromo-2-trifluoromethylbenzoate (3.55 g) as colorless oil. (3) The above methyl 5-bromo-2-trifluoromethylbenzoate was treated in a manner similar to Reference Example 4-(1) to give 5-bromo-2-trifluoromethylbenzoic acid as pale brown crystals. ESI-Mass m/Z 267/269 (M−H). (4) The above 5-bromo-2-trifluoromethylbenzoic acid and 2-phenylthiophene were treated in a manner similar to Reference Example 5-(1) to give 5-bromo-2-trifluoromethylphenyl 5-phenyl-2-thienyl ketone as pale yellow crystals. APCI-Mass m/Z 411/413 (M+H). (5) To a mixed solution of the above 5-bromo-2-trifluoromethylphenyl 5-phenyl-2-thienyl ketone (670 mg) in methanol (20 ml)-tetrahydrofuran (10 ml) was added sodium borohydride (62 mg), and the mixture was stirred at room temperature for 3 hours. The solvent was evaporated under reduced pressure, and the residue was dissolved in chloroform (10 ml)acetonitrile (20 ml). Thereto was added triethylsilane (0.78 ml), and the mixture was cooled to 0° C. Thereto was added dropwise boron trifluoride•diethyl ether complex (0.52 ml). The mixture was stirred at room temperature for 45 minutes, and added thereto was a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane) to give the desired 5-bromo-1-(5-phenyl-2-thienylmethyl)-2-trifluoromethylbenzene (565 mg) as colorless oil.

reactant | 5-bromo-2-trifluoromethylbenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)C(F)(F)F | C8H4BrF3O2
reactant | 2-phenylthiophene | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
product | 5-bromo-2-trifluoromethylphenyl 5-phenyl-2-thienyl ketone | C1(=CC=CC=C1)C1=CC=C(S1)C(=O)C1=C(C=CC(=C1)Br)C(F)(F)F | C18H10BrF3OS
